US06063804
1,3-diphenyl-5,6-dimethyl-4,7-dihydro-2H-isoindole
A solution containing 4.46 g of 1,2-dimethyl-4,5-dibenzoylcyclohexene (Preparation 1) and 8.81 g of ammonium formate in 70 ml of anhydrous ethanol is heated at reflux for 24 hours. A precipitate is obtained which is filtered off and then dissolved in dichloromethane. The organic phase is washed with water, dried over calcium sulphate and concentrated to allow the isolation of 4 g of the expected product.

reactant | 1,2-dimethyl-4,5-dibenzoylcyclohexene | 4.46 g | CC1=C(CC(C(C1)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)C | C22H22O2
reactant | ammonium formate | 8.81 g | C(=O)[O-].[NH4+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1,3-diphenyl-5,6-dimethyl-4,7-dihydro-2H-isoindole | C1(=CC=CC=C1)C=1NC(=C2CC(=C(CC12)C)C)C1=CC=CC=C1 | C22H21N
